US04868174
To a solution of benzhydryl 7-benzoylamino-3-chloromethyl-3-cephem-4-carboxylate (20 g) in a mixture of dichloromethane (40 ml) and anisole (10 ml) was added trifluoroacetic acid (20 ml) under cooling. After being stirred for two hours at -3°~0° C., the mixture was added dropwise to a mixture of diisopropyl ether (400 ml) and n-hexan (800 ml) at 5° C. The stirring was continued for 15 minutes at the same temperature. The resulting powder was collected by filtration, washed with n-hexan and dried over phosphorus pentoxide to give 7-benzoylamino-3-chloromethyl-3-cephem-4-carboxylic acid.

reactant | benzhydryl 7-benzoylamino-3-chloromethyl-3-cephem-4-carboxylate | 20 g | C(C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H23ClN2O4S
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | 400 ml | C(C)(C)OC(C)C | C6H14O
reactant | n-hexan | 800 ml | CCCCCC | C6H14
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | anisole | 10 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-benzoylamino-3-chloromethyl-3-cephem-4-carboxylic acid | C(C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)O)C1=O | C15H13ClN2O4S
